US08058293B2
N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2-fluoro-5-(trifluoromethyl)benzamide
To a solution of 5-tert-butyl-1,3,4-thiadiazol-2-amine (1.57 g, 10 mmol) and 2-fluoro-5-(trifluoromethyl)benzoyl chloride (2.27 g, 10 mmol) in CH2Cl2 (45 mL) at 0° C. was added dropwise triethylamine (1.7 mL, 12 mmol) and the reaction mixture was allowed to warm to ambient temperature for 12 h. The mixture was then washed with water, brine, dried with MgSO4, and concentrated under reduced pressure to afford 3.2 g of the title compound. MS (DCI/NH3) m/z 348 (M+H)+.

reactant | 5-tert-butyl-1,3,4-thiadiazol-2-amine | 10 mmol, 1.57 g | C(C)(C)(C)C1=NN=C(S1)N | C6H11N3S
reactant | 2-fluoro-5-(trifluoromethyl)benzoyl chloride | 10 mmol, 2.27 g | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
reactant | triethylamine | 12 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2-fluoro-5-(trifluoromethyl)benzamide | 3.2 g | C(C)(C)(C)C1=NN=C(S1)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O | C14H13F4N3OS
